US05112836
a) Dibenzyl 6-bromo-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylate
A mixture of 6-bromo-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid (10.2 g), benzyl bromide (9 ml) and potassium carbonate (10 g) in DMF (30 ml) was stirred at room temperature for 3 hours and filtered. To the filtrate was added a mixture of ethyl acetate-benzene (1:1, 300 ml). The mixture was washed with water, dried over anhydrous sodium sulfate and concentrated to give oily objective compound (17.44 g).

reactant | 6-bromo-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid | 10.2 g | BrC=1C=C2C(CCNC2=C(C1)C(=O)O)C(=O)O | C11H10BrNO4
reactant | benzyl bromide | 9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Dibenzyl 6-bromo-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylate | 17.44 g | BrC=1C=C2C(CCNC2=C(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H22BrNO4
